US05364871
A suspension of 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (1.0 g), dimethyl N-cyanodithiocarbonimidate (0.45 g) and triethyl amine (0.7 g) in N,N-dimethylformamide (40 ml) was heated at 70° C. for 10 hours. 40% methylamino solution (5 ml) was added to the reaction mixture and the mixture was stirred at room temperature for 14 hours. The solvent was removed under reduced pressure. The residue was suspended in water (30 ml) and the mixture was alkalized to pH 10 with a saturated aqueous potassium carbonate solution. The resulting precipitate was collected by filtration. Recrystallization from a mixture of N,N-dimethylformamide and water afforded 2-(diaminomethyleneamino)-4-[2-(2-cyano-3-methylguanidino)methylthiazol-4-yl]thiazole (0.2 g).

reactant | 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 1.0 g | Cl.Cl.NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N
reactant | dimethyl N-cyanodithiocarbonimidate | 0.45 g | C(#N)N=C(SC)SC | C4H6N2S2
reactant | triethyl amine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-(diaminomethyleneamino)-4-[2-(2-cyano-3-methylguanidino)methylthiazol-4-yl]thiazole | 0.2 g | NC(N)=NC=1SC=C(N1)C=1N=C(SC1)CNC(=NC#N)NC | C11H13N9S2
